US06835732B2
(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-carbamic acid methyl ester
Carbamate formation using the same procedure as for (4-methoxy-benzothiazol-2-yl)-carbamic acid methyl ester yields the product as off-white solid in 58% yield. MS: m/e=324 (M+H+).

reactant | Carbamate | C(N)([O-])=O
reactant | (4-methoxy-benzothiazol-2-yl)-carbamic acid methyl ester | COC(NC=1SC2=C(N1)C(=CC=C2)OC)=O | C10H10N2O3S
product | (4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-carbamic acid methyl ester | 58% yield | COC(NC=1SC2=C(N1)C(=CC=C2N2CCOCC2)OC)=O | C14H17N3O4S
